US08466133B2
3-Methyl-6-isopropyl-1,4-dioxane-2,5-dione (3) (isopropyl-substituted lactide)
5.1 g α-hydroxyisovaleric acid (43 mmol) and 4.85 mL 2-bromopropionyl bromide (45 mmol) were stirred at 75° C. under nitrogen for 12 h. 300 mL acetone and 12 mL anhydrous triethylamine (86 mmol) were added to the mixture and the solution was stirred for 3 h at 60° C. After filtration of the triethylammonium bromide salts, acetone was distilled off and the resulting mixture was dissolved in 500 mL ethyl acetate:hexane mixture (1:1). After filtration over silica gel the solvents were distilled off, and the remaining crude product was recrystallized from hexane. 1H NMR (500 MHz, CDCl3): δ 5.0 (q, 1H), 4.76 (d, 1H), 2.5 (m, 1H), 1.66 (d, 3H), 1.16 (d, 3H), 1.06 (d, 3H). 13C NMR (500 MHz, CDCl3): δ 167.59, 166.16, 79.83, 72.10, 29.24, 18.51, 15.86, 15.79. ELEM. ANAL. Calcd. for C8H12O4: C, 55.81; H, 6.98. Found: C, 55.55; H, 6.99. Yield: 35%.

reactant | α-hydroxyisovaleric acid | 43 mmol, 5.1 g | OC(C(=O)O)C(C)C | C5H10O3
reactant | 2-bromopropionyl bromide | 45 mmol, 4.85 mL | BrC(C(=O)Br)C | C3H4Br2O
reactant | triethylamine | 86 mmol, 12 mL | C(C)N(CC)CC | C6H15N
solvent | acetone | 300 mL | CC(=O)C | C3H6O
product | 3-Methyl-6-isopropyl-1,4-dioxane-2,5-dione | Yield: 35% | CC1C(OC(C(O1)=O)C(C)C)=O | C8H12O4
